US09446034B2
2-[5-Cyclopropyl-2-(2,5-dimethyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methoxy-benzamide
To a 10 mL microwave tube were added 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methoxy-benzamide (0.075 g, 0.24 mmol, 1 eq), 2,5-dimethyl-2H-pyrazol-3-ylamine (0.05 g, 0.47 mmol, 2 eq), Cs2CO3 (0.23 g, 0.71 mmol, 3 eq), and 1,4-dioxane (3 mL). The resulting mixture was degassed with N2 for 15 min. To this was added Pd2(dba)3 (0.015 g, 0.014 mmol, 0.06 eq) and xanthphos (0.03 g, 0.06 mmol, 0.25 eq) and the mixture was again degassed with N2 for 30 min. The resulting mixture was irradiated in a CEM microwave at 120° C., 150 W for 35 min. After completion of reaction, solvent was removed under reduced pressure and crude compound was purified using column chromatography over silica gel (100-200 mesh) using 1% MeOH-DCM as the eluant followed by prep HPLC. Solid compound so obtained was washed with diethyl ether and pentane to give the title compound as an off white solid (11 mg, 12%). 1H-NMR (400 MHz, DMSO-d6): δ 0.52-0.60 (m, 2H), 0.82-1.00 (m, 2H), 1.50-1.62 (m, 1H), 2.05 (s, 3H), 3.52 (s, 3H), 3.70 (s, 3H), 5.96 (s, 1H), 6.67 (s, 1H), 6.98-7.10 (m, 1H), 7.40-7.60 (m, 3H), 7.73 (s, 1H), 8.39 (s, 1H), 9.46 (s, 1H), 11.88 (brs, 1H). LC-MS [M+H]+=393.4.

reactant | 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methoxy-benzamide | 0.24 mmol, 0.075 g, 1 eq | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)C1CC1 | C16H16ClN3O2
reactant | 2,5-dimethyl-2H-pyrazol-3-ylamine | 0.47 mmol, 0.05 g, 2 eq | CN1N=C(C=C1N)C | C5H9N3
reactant | Cs2CO3 | 0.71 mmol, 0.23 g, 3 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xanthphos | 0.06 mmol, 0.03 g, 0.25 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.014 mmol, 0.015 g, 0.06 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-[5-Cyclopropyl-2-(2,5-dimethyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methoxy-benzamide | C1(CC1)C=1C(=CC(=NC1)NC=1N(N=C(C1)C)C)NC1=C(C(=O)NOC)C=CC=C1 | C21H24N6O2
